US06677368B2
To a stirred solution of 1,5,6,7-tetrahydro-indol-4-one oxime (1.2 g, 7.7 mmol) in DCM (anhydrous, 250 mL) was added DIBAL-H (1M solution in DCM, 35 mL) at 0° C. under nitrogen. After 2 hours, NaF (7 g) was added followed by water (2.24 g). After 20 mins, the reaction was filtered through celite and the solvent was removed to give 350 mg of 1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine as a brown oil

reactant | 1,5,6,7-tetrahydro-indol-4-one oxime | 7.7 mmol, 1.2 g | N1C=CC=2C(CCCC12)=NO | C8H10N2O
reactant | DIBAL-H | 1M, 35 mL | CC(C)C[AlH]CC(C)C
reactant | NaF | 7 g | [F-].[Na+]
reactant | water | 2.24 g | O | H2O
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine | 350 mg | N1C=CC=2NCCCCC21 | C8H12N2
